US07745451B2
Various N-substituted-6-(pyridin-2-yl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine derivatives are prepared using a general procedure described below. Accordingly, ethyl 1-benzyl-4-oxopiperidine-3-carboxylate hydrochloride is reacted with formamidine acetate to yield 6-benzyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4(4aH)-one, which, in turn, is reacted with POCl3 to afford the 4-chloro derivative. The intermediate chloro derivative is then condensed with substituted aniline or amine to give the desired N-substituted-6-benzyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine. Debenzylation using standard procedures known in the art followed by nucleophilic displacement of an appropriate 2-halo-pyridine yields the appropriate N-substituted-6-(pyridin-2-yl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine. As a representative example, synthesis of N-(4-tert-butylphenyl)-6-(3-chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine is depicted in Scheme 1.

reactant | ethyl 1-benzyl-4-oxopiperidine-3-carboxylate hydrochloride | Cl.C(C1=CC=CC=C1)N1CC(C(CC1)=O)C(=O)OCC
reactant | formamidine acetate | C(C)(=O)O.C(=N)N
product | 6-benzyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4(4aH)-one | C(C1=CC=CC=C1)N1CC2C(=NC=NC2=O)CC1 | C14H15N3O
